US09302991B2
<Step-2>:N-methoxy-N-methyl-6-(2,2,2-trifluoroethoxy)nicotinamide
A mixture of 6-(2,2,2-trifluoroethoxy)nicotinic acid (10.4 g, 47.3 mmol, Step-1), N,O-dimethylhydroxylamine hydrochloride (5.08 g, 52.1 mmol), HOBT (9.59 g, 71.0 mmol), EDC (13.6 g, 71.0 mmol) and triethylamine (26.4 mL, 189 mmol) in N,N-dimethylacetamide (237 mL) is stirred at 60° C. for 16 hours. The reaction mixture is poured into saturated aqueous sodium hydrogen carbonate (300 mL) and extracted with ethyl acetate (500 mL). The organic layer is washed with saturated aqueous sodium hydrogen carbonate (300 mL×2) and dried over sodium sulfate, and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (4:1) to give 6.54 g (52% yield) of the title compound as colorless oil.

reactant | 6-(2,2,2-trifluoroethoxy)nicotinic acid | 47.3 mmol, 10.4 g | FC(COC1=NC=C(C(=O)O)C=C1)(F)F | C8H6F3NO3
reactant | N,O-dimethylhydroxylamine hydrochloride | 52.1 mmol, 5.08 g | Cl.CNOC
reactant | HOBT | 71.0 mmol, 9.59 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 71.0 mmol, 13.6 g
reactant | triethylamine | 189 mmol, 26.4 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | 300 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 237 mL | CN(C(C)=O)C | C4H9NO
product | N-methoxy-N-methyl-6-(2,2,2-trifluoroethoxy)nicotinamide | 6.54 g, 52% yield | CON(C(C1=CN=C(C=C1)OCC(F)(F)F)=O)C | C10H11F3N2O3
